US04077977
A mixture of 43.5 g of 9-anthraldehyde, 20.97 g of cyclopentylmethylamine and 150 ml of ethanol is heated under reflux for 1.5 hours. The hot solution of N-cyclopentylmethyl-9-anthracenemethyleneimine so obtained is allowed to cool to 60°, and 8.2 g of sodium borohydride is added in small portions, with stirring, while the temperature is maintained at 55-60°. The mixture is then stirred for another 1.5 hours, concentrated hydrochloric acid (35 ml) is added with cooling, and stirring is continued for 0.5 hour. The mixture is then made basic and extracted with methylene chloride. Removal of the solvent from the dried extracts gives 59.1 g of N-cyclopentylmethyl-9-anthracenemethylamine as an oil; nmr spectrum: τ 1.8-3.1 (m, 9); 5.6 (s, 2), 7.5 (d, 7Hz, 2) and 7.8-9.3 (m, 10).

reactant | 9-anthraldehyde | 43.5 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=O | C15H10O
reactant | cyclopentylmethylamine | 20.97 g | C1(CCCC1)CN | C6H13N
reactant | sodium borohydride | 8.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-cyclopentylmethyl-9-anthracenemethylamine | 59.1 g | C1(CCCC1)CNCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C21H23N
